US08703742B2
4-Fluoro-2,3-dihydroxybenzaldehyde
To a solution at −78° C. of 2,3-dimethoxy-4-fluorobenzaldehyde (7.0 g, 38.0 mmol) in dry dichloromethane (150 mL) was added dropwise BBr3 (23.8 g, 95.0 mmol) in dichloromethane (30 mL). Reaction mixture was allowed to attain room temperature and stirred for 18 h. Then reaction mixture was cooled to −78° C., and quenched with a mixture of methanol (10 mL) and water (50 mL) and stirred at room temperature for 30 min. Precipitated solid was separated by filtration and washed with cold dichloromethane. Dichloromethane layer was concentrated to yield the title compound as a solid (5.2 g, 88%). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm: 11.38 (s, 1H), 9.84 (s, 1H), 7.15 (dd, J=8.6, 5.5 Hz, 1H), 6.81 (t, J=9.4 Hz, 1H), 5.47 (s, 1H); MS (ESI) m/z=155 (M−1, negative).

reactant | 2,3-dimethoxy-4-fluorobenzaldehyde | 38.0 mmol, 7.0 g | COC1=C(C=O)C=CC(=C1OC)F | C9H9FO3
reactant | BBr3 | 95.0 mmol, 23.8 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-Fluoro-2,3-dihydroxybenzaldehyde | 5.2 g, 88% | FC1=C(C(=C(C=O)C=C1)O)O | C7H5FO3
